US04226783
2-Chloro-4-nitrotoluene (2.19 g, 0.0128 mole) and dichloride monoxide (4.46 g, 0.0513 mole) in carbon tetrachloride (50 ml) were heated at 75°/18 hrs following the procedure described in Example 6. The product was dried and the solvent removed to give 1-nitro-3-chloro-4-trichloromethylbenzene (3.49 g, purity by HPLC 99.40%, yield 99.2%) as a pale yellow oil. The product was distikled in a short path still (bp 82-85/2μ) to give a pale yellow oil.

reactant | 2-Chloro-4-nitrotoluene | 0.0128 mole, 2.19 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6ClNO2
reactant | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-nitro-3-chloro-4-trichloromethylbenzene | 3.49 g, yield 99.2% | [N+](=O)([O-])C1=CC(=C(C=C1)C(Cl)(Cl)Cl)Cl | C7H3Cl4NO2
